US06455528B1
(2) Synthesis of 4-Fluoro-2-methoxyaniline
To a solution of 4-fluoro-2-methoxynitrobenzene (4.2 g) in ethanol (50 ml) was added Raney-nickel (0.4 g) at room temperature. To this solution was added dropwise hydrazine monohydrate (6 ml) under ice-cooling. This reaction mixture was stirred at room temperature for 1 hr and passed through Celite. The solvent was evaporated to give an oil. The oil was poured into water and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate and the solvent was evaporated to give a brown oil. The oil was subjected to silica gel column chromatography (developing solvent; hexane:ethyl acetate=1:1) to give the title compound (3.1 g) as a brown oil.

reactant | 4-fluoro-2-methoxynitrobenzene | 4.2 g | FC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | hydrazine monohydrate | 6 ml | O.NN
reactant | water | O | H2O
reactant | hexane | CCCCCC | C6H14
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Raney-nickel | 0.4 g | [Ni] | Ni
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Fluoro-2-methoxyaniline | 3.1 g | FC1=CC(=C(N)C=C1)OC | C7H8FNO
